US04786311
N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(5-methyl-1H-tetrazol-1-yl)benzenesulfonamide
To 0.48 g of 1-(2-aminosulfonylphenyl)-5-methyl 1H-tetrazole in 25 mL of acetonitrile was added at ambient temperature and pressure 0.54 g of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate and 0.3 mL of DBU. The reaction mixture was stirred for three hours, added to 25 g of ice and acidified to pH 3 with hydrochloric acid. The precipitate thus obtained was filtered, washed with water and dried to yield 0.74 g of the desired product, melting point at 213°-216° C. Infrared absorption spectra showed peaks at 1710, 1605 and 1570 cm-1, consistent for the desired product.

reactant | 1-(2-aminosulfonylphenyl)-5-methyl 1H-tetrazole | 0.48 g | NS(=O)(=O)C1=C(C=CC=C1)N1N=NN=C1C | C8H9N5O2S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 0.54 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | DBU | 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-[(4,6-Dimethoxypyrimidin-2-yl)aminocarbonyl]-2-(5-methyl-1H-tetrazol-1-yl)benzenesulfonamide | 0.74 g | COC1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)N1N=NN=C1C | C15H16N8O5S
